US07138414B2
a) 2-[3-methyl-5-(2-nitrophenyl)-[1,2,4]triazol-4-yl]benzoic acid
The mixture consisting of 1.8 g of 2-nitrobenzoic hydrazide, 1.6 g of 2-methylbenzo[d][1,3]oxazin-4-one and 5 ml of N-methylpyrrolidone was heated to 80° C. with stirring for 2 hours. After cooling, the mixture was admixed with water to slight cloudiness and stirred for a further 1 hour, during which time a solid precipitated out which was filtered off with suction, recrystallized from ethanol and dried under reduced pressure.

reactant | 2-nitrobenzoic hydrazide | 1.8 g | [N+](=O)([O-])C1=C(C(=O)NN)C=CC=C1 | C7H7N3O3
reactant | 2-methylbenzo[d][1,3]oxazin-4-one | 1.6 g | CC=1OC(C2=C(N1)C=CC=C2)=O | C9H7NO2
reactant | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-[3-methyl-5-(2-nitrophenyl)-[1,2,4]triazol-4-yl]benzoic acid | CC1=NN=C(N1C1=C(C(=O)O)C=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C16H12N4O4
